US08633189B2
A mixture of methyl 6-cyano-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylate (629 mg, 2.88 mmol) and K2CO3 (1195 mg, 8.65 mmol) in dichloromethane (30 mL) was cooled at 0° C. and ethyl chloroformate (0.76 mL, 7.8 mmol) was added. The mixture was heated at reflux temperature for 30 h. The reaction was cooled and extracted with dichloromethane (3×20 mL), dried over Na2SO4 and concentrated. The product 4-ethyl 2-methyl 6-cyano-2H-benzo[b][1,4]oxazine-2,4(3H)-dicarboxylate was obtained as a yellow oil (670 mg, 80% yield) after purification by silica gel column chromatography (0-25% ethyl acetate/hexanes). 1H NMR (400.0 MHz, DMSO-d6) δ 8.11 (s, 1H), 7.53 (dd, J=2.0, 8.5 Hz, 1H), 7.18 (d, J=8.5 Hz, 1H), 5.36 (t, J=3.3 Hz, 1H), 4.39 (dd, J=3.5, 14.1 Hz, 1H), 4.27-4.15 (m, 2H), 3.76 (dd, J=3.2, 14.1 Hz, 1H), 3.71-3.67 (m, 3H), 1.25 (t, J=7.1 Hz, 3H).

reactant | methyl 6-cyano-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylate | 2.88 mmol, 629 mg | C(#N)C=1C=CC2=C(NCC(O2)C(=O)OC)C1 | C11H10N2O3
reactant | K2CO3 | 8.65 mmol, 1195 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl chloroformate | 7.8 mmol, 0.76 mL | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-ethyl 2-methyl 6-cyano-2H-benzo[b][1,4]oxazine-2,4(3H)-dicarboxylate | C(#N)C1=CC2=C(OC(CN2C(=O)OCC)C(=O)OC)C=C1 | C14H14N2O5
